US04153698
Carbon disulphide (63 g) is added dropwise, at 20° C. and whilst stirring vigorously, to a solution of (RS)-3-hydroxysulphonyloxymethyl-1,2,3,4-tetrahydroisoquinoline (151 g) and sodium hydroxide pellets (63 g) in water (5000 cc). A cream precipitate is immediately formed. The very thick mixture is stirred at a temperature of about 20° C. for 24 hours. The reaction mixture is then neutralised by adding 4 N hydrochloric acid (130 cc). The solid is filtered off and then washed copiously with water. After drying, (RS)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline-3-thione (107 g) is obtained in the form of white crystals which melt at 180° C.

reactant | Carbon disulphide | 63 g | C(=S)=S | CS2
reactant | (RS)-3-hydroxysulphonyloxymethyl-1,2,3,4-tetrahydroisoquinoline | 151 g | OS(=O)(=O)OCC1NCC2=CC=CC=C2C1 | C10H13NO4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 4 N, 130 cc | Cl | ClH
solvent | water | 5000 cc | O | H2O
product | (RS)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline-3-thione | 107 g | C1SC(N2CC=3C=CC=CC3CC21)=S | C11H11NS2
